US04472433
(2) Preparation of 2-oxo-7-(2-chlorophenylsulfinyl)indoline
A solution of 2-oxo-7-(2-chlorophenylthio)indoline (1.0 g.) in chloroform (20 ml.) and m-chloroperbenzoic acid (purity: 85%, 0.73 g.) was treated in a similar manner to that of the Preparation 28-(2) to give crystals of the captioned compound (0.7 g.). mp 243° to 245° C.

reactant | 2-oxo-7-(2-chlorophenylthio)indoline | 1.0 g | O=C1NC2=C(C=CC=C2C1)SC1=C(C=CC=C1)Cl | C14H10ClNOS
reactant | m-chloroperbenzoic acid | 0.73 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-oxo-7-(2-chlorophenylsulfinyl)indoline | O=C1NC2=C(C=CC=C2C1)S(=O)C1=C(C=CC=C1)Cl | C14H10ClNO2S
